US07851493B2
120 mg Methanesulfonic acid 5-(3-chloro-4-cyano-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester was dissolved in 5 ml N-(2-hydroxyethyl)morpholine. 10 mg sodium hydride were added and the reaction mixture stirred at 50° C. for one hour. 10 ml water was added and the reaction mixture extracted 50 ml ethyl acetate. The organic layer was separated and washed twice with 20 ml brine. The organic layer was dried over MgSO4 and the solvent was then removed in vacuo. The residue was purified by RP-HPLC to obtain 40 mg 2-chloro-4-[4-(2-morpholin-4-yl-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile as its trifluoro-acetate salt.

reactant | Methanesulfonic acid 5-(3-chloro-4-cyano-phenoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl ester | 120 mg | ClC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)COS(=O)(=O)C)C=CC1C#N | C20H14ClF3N2O4S2
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | N-(2-hydroxyethyl)morpholine | 5 ml | OCCN1CCOCC1 | C6H13NO2
product | 2-chloro-4-[4-(2-morpholin-4-yl-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile | 40 mg | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COCCN1CCOCC1 | C25H23ClF3N3O3S
